2168-12-03 08:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient reports that he feels well this morning.
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-12-3**] 04:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-12-3**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-3**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 100 (87 - 100) bpm
   BP: 131/87(94) {121/65(68) - 139/87(94)} mmHg
   RR: 17 (16 - 17) insp/min
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,183 mL
   PO:
             TF:
   IVF:
   183 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                      0 mL
                                                                    583 mL
   Respiratory support
   ABG: ////
   Physical Examination
   Gen: No acute distress
   Head & Neck: No JVD
   CV: S1 & S2 regular without murmur
   Pulm: Bilateral CTA
   Abd: nontender or distended
   Ext: 2+ DP, no edema
   Labs / Radiology
   135
                               [image002.gif]
                                     101
                               [image002.gif]
                                      7
   [image004.gif]
   167
                                                                   AGap=17
   [image005.gif]
   4.6
                               [image002.gif]
                                     22
                               [image002.gif]
                                     0.9
   [image007.gif]
   Comments:
   K: Hemolysis Falsely Elevates K
   Serum EtOH
   57
   Serum ASA, Acetmnphn, [**Last Name (LF) **], [**First Name3 (LF) **], Tricyc
   Negative
   Comments:
   Positive Tricyclic Results Represent Potentially Toxic
   Levels;Therapeutic Tricyclic Levels Will Typically Have Negative
   Results
   90
                                                                       7.0
                                                            [image007.gif]
                                    11.9
   [image004.gif]
   108
                 [image008.gif]
   [image004.gif]
                                    33.0
   [image007.gif]
   PT: 17.1
   PTT: 29.3
   INR: 1.5
   Assessment and Plan
   Assessment and Plan:
   49-year-old male with Etoh cirrhosis complicated by esophageal and
   rectal variceal hemorrhages, status post TIPS, who presents with
   continued BRBPR.
   .
   # BRBPR:  HD stable.  HCT stable.  Plt ct of 100.  INR 1.5.  Most
   likely LGIB given BRBPR and HD stablility.  This is most likely [**12-26**]
   rectal varice/hemorrhoids as seen on sigmoidoscopy 2 days prior.
   However, given known esophageal varices, will start octreotide gtt.
   TIPS was confirmed to be functioning on US from [**11-30**].  Also has known
   history of diverticulosis.
   - 2 large bore PIVs in place
   - Type and screen, crossmatched for 2 units
   - Serial HCT q4 hrs until stable
   - IV PPI [**Hospital1 **]
   - Octreotide gtt
   - Ceftriaxone for SBP ppx
   - cont. sulcrafate
   - cont. iron
   - NPO for possible colonoscopy/EGD
   .
   # EtOH Cirrhosis:  Patient continues to drink.  No evidence of ascites
   or encephalopathy.
   - CIWA scale
   - MTV, thiamine, folate
   - SW consult
   .
   # DM:
   - Fingersticks QID
   - Hold glipizide
   - HISS while inhouse
   .
   # FEN: monitor/replete electrolytes, NPO
   # Prophylaxis: Pneumoboots
   # Access: 2PIVs
   # Code: presumed full
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-12-3**] 05:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-04 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2168-12-3**] 02:15 PM
 ENDOSCOPY - At [**2168-12-3**] 07:14 PM
   [**2168-12-3**]
   - Pt had BRBPR at 12:30pm
   - Abd US showed normally functioning TIPS
   - GI did flex sig at 6pm which showed hemorrhoids, [**Name (NI) 420**] gen [**Doctor First Name 458**]
   for possible banding.  Most likely patient will need colonoscopy on
   Monday, therefore kept with clear liquid diet only
   - pt received 5 units of PRBCs overnight, Hct up to 32.6
   - pt received 5mg of Vit K
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-12-4**] 06:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2168-12-4**] 05:38 AM
   Pantoprazole (Protonix) - [**2168-12-4**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-4**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.1
   HR: 98 (83 - 107) bpm
   BP: 94/60(68) {87/49(57) - 139/87(94)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,072 mL
                                                                    171 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                  1,337 mL
                                                                    171 mL
   Blood products:
                                                                  1,465 mL
   Total out:
                                                                  1,000 mL
                                                                    900 mL
   Urine:
                                                                    400 mL
                                                                    900 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  3,072 mL
                                                                   -729 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: No acute distress
   Head & Neck: No JVD
   CV: S1 & S2 regular without murmur
   Pulm: Bilateral CTA
   Abd: nontender or distended
   Ext: 2+ DP, no edema
   Bright red blood per rectum during rounds
   Labs / Radiology
   86 K/uL
   10.1 g/dL
   93 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   11 mg/dL
   105 mEq/L
   138 mEq/L
   27.3 %
   9.6 K/uL
        [image002.jpg]
                             [**2168-12-3**]  07:54 AM
                             [**2168-12-3**]  12:56 PM
                             [**2168-12-3**]  04:37 PM
                             [**2168-12-3**]  10:12 PM
                             [**2168-12-4**]  02:17 AM
                             [**2168-12-4**]  04:07 AM
   WBC
   9.6
   Hct
   26.5
   26.4
   32.6
   29.0
   28.2
   27.3
   Plt
   86
   Cr
   0.8
   Glucose
   93
   Other labs: PT / PTT / INR:17.4/29.5/1.6
   Assessment and Plan
   49-year-old male with Etoh cirrhosis complicated by esophageal and
   rectal variceal hemorrhages, status post TIPS, who presents with
   continued BRBPR.
   .
   # BRBPR:  HD stable.  HCT drop with bright red blood during physical
   exam.
   - Flex sig revealed hemorrhoids per GI.  Obtained surgical consult, and
   believed hemorrhoids not source of transfusion requirement.
   Recommended bowel regimen, surgicell packing to anus if rebleeding,
   EGD/Colonoscopy, correct INR.
   - GI recommends Colonoscopy prep overnight, with scope likely tomorrow
   - Transfusion PRN  to maintaine HCT >25
   - 3 large bore PIVs in place
   - Serial HCT q6 hrs until stable
   - IV PPI [**Hospital1 **]
   - Octreotide gtt
   - Ceftriaxone for SBP ppx
   - cont. sulcrafate
   - cont. iron
   - NPO for possible colonoscopy/EGD
   .
   # EtOH Cirrhosis:  Patient continues to drink.  No evidence of ascites
   or encephalopathy.
   - CIWA scale
   - MTV, thiamine, folate
   - SW consult
   .
   # DM:
   - Fingersticks QID
   - Hold glipizide
   - HISS while inhouse
   .
   # FEN: monitor/replete electrolytes, NPO
   # Prophylaxis: Pneumoboots
   # Access: 3PIVs
   # Code: presumed full
   # Communication: Patient
   # Disposition: pending above
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-12-3**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-04 10:53:00 Physician Attending Progress Note
Chief Complaint: Gi Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2168-12-3**] 02:15 PM--Patent [**Last Name (un) 7438**]
 ENDOSCOPY - At [**2168-12-3**] 07:14 PM--Hemorrhoids bleeding,
   conservative local Rx suggested
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-12-4**] 06:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2168-12-4**] 05:38 AM
   Pantoprazole (Protonix) - [**2168-12-4**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-4**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 79 (79 - 99) bpm
   BP: 107/56(68) {87/49(57) - 128/84(93)} mmHg
   RR: 17 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,072 mL
                                                                    658 mL
   PO:
                                                                    270 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,337 mL
                                                                    258 mL
   Blood products:
                                                                  1,465 mL
   Total out:
                                                                  1,000 mL
                                                                    900 mL
   Urine:
                                                                    400 mL
                                                                    900 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  3,072 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   86 K/uL
   93 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   11 mg/dL
   105 mEq/L
   138 mEq/L
   27.3 %
   9.6 K/uL
        [image002.jpg]
                             [**2168-12-3**]  07:54 AM
                             [**2168-12-3**]  12:56 PM
                             [**2168-12-3**]  04:37 PM
                             [**2168-12-3**]  10:12 PM
                             [**2168-12-4**]  02:17 AM
                             [**2168-12-4**]  04:07 AM
   WBC
   9.6
   Hct
   26.5
   26.4
   32.6
   29.0
   28.2
   27.3
   Plt
   86
   Cr
   0.8
   Glucose
   93
   Other labs: PT / PTT / INR:17.4/29.5/1.6
   Assessment and Plan
   Patient with history of cirrhosis now presenting with significant GI
   bleed.  He does have evidence of continued ongoing bleeding from lower
   GI tract suggested and with tranfusions given he has HCT maintained at
   28% with 5 units of PRBC given in past 24 hours.  There were
   hemorrhoids seen on flex sig exam but definative source of transfusion
   requiring Gi bleed remains to be defined with complete confidence.
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   -CTX continuing
   -MVI/Thiamine /Folate
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)-
   -Prep for colonscopy tomorrow
will confirm timing and location of
   procedure
   -Would favor EGD/Colonscopy both with colonscopy first
   -P-IV
s in place
   -T+C in place
   -Continue octreotide
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-12-3**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Plan D/W patient
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2168-12-05 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2168-12-4**]
   -Trx 1 U PRBC for HCT <25
   -Bowel regimen started
   -Golytely prep started
   -NPO after midnight for colonoscopy by GI tomorrow afternoon
   -Call out to floor for transfer after scope
   ----
   GI requests 2 units FFP to be given at 6:30am
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-12-5**] 05:31 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2168-12-5**] 12:07 AM
   Pantoprazole (Protonix) - [**2168-12-5**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-5**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 84 (70 - 94) bpm
   BP: 99/60(67) {91/52(56) - 122/99(103)} mmHg
   RR: 17 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  6,601 mL
                                                                    885 mL
   PO:
                                                                  5,810 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    510 mL
                                                                    185 mL
   Blood products:
                                                                    281 mL
                                                                    460 mL
   Total out:
                                                                  1,850 mL
                                                                      0 mL
   Urine:
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,751 mL
                                                                    885 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: No acute distress
   Head & Neck: No JVD
   CV: S1 & S2 regular without murmur
   Pulm: Bilateral CTA
   Abd: nontender or distended
   Ext: 2+ DP, no edema
   Bright red blood per rectum during rounds
   Labs / Radiology
   69 K/uL
   8.9 g/dL
   125 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   9 mg/dL
   105 mEq/L
   136 mEq/L
   23.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2168-12-3**]  12:56 PM
                             [**2168-12-3**]  04:37 PM
                             [**2168-12-3**]  10:12 PM
                             [**2168-12-4**]  02:17 AM
                             [**2168-12-4**]  04:07 AM
                             [**2168-12-4**]  12:07 PM
                             [**2168-12-4**]  04:05 PM
                             [**2168-12-4**]  08:11 PM
                             [**2168-12-5**]  12:01 AM
                             [**2168-12-5**]  04:01 AM
   WBC
   9.6
   7.6
   Hct
   26.4
   32.6
   29.0
   28.2
   27.3
   25.8
   24.7
   26.2
   23.5
   23.8
   Plt
   86
   69
   Cr
   0.8
   0.8
   Glucose
   93
   125
   Other labs: PT / PTT / INR:17.0/30.2/1.5
   Assessment and Plan
   49-year-old male with Etoh cirrhosis complicated by esophageal and
   rectal variceal hemorrhages, status post TIPS, who presents with
   continued BRBPR.
   .
   # BRBPR:  HD stable.  HCT drop with bright red blood during physical
   exam.
   - Flex sig revealed hemorrhoids per GI.  Obtained surgical consult, and
   believed hemorrhoids not source of transfusion requirement.
   Recommended bowel regimen, surgicell packing to anus if rebleeding,
   EGD/Colonoscopy, correct INR.
   - As of AM, patient refusing colonoscopy and would like to leave AMA to
   return to work.  Patient needs life-sustaining blood transfusion this
   AM, and leaving could mean death.  Will attempt discussion to convince
   patient to stay.
   - Transfusion PRN  to maintaine HCT >25
   - 3 large bore PIVs in place
   - Serial HCT q6 hrs until stable
   - IV PPI [**Hospital1 **]
   - Octreotide gtt
   - Ceftriaxone for SBP ppx
   - cont. sulcrafate
   - cont. iron
   - NPO for possible colonoscopy/EGD
   .
   # EtOH Cirrhosis:  Patient continues to drink.  No evidence of ascites
   or encephalopathy.
   - CIWA scale
   - MTV, thiamine, folate
   - SW consult
   .
   # DM:
   - Fingersticks QID
   - Hold glipizide
   - HISS while inhouse
   .
   # FEN: monitor/replete electrolytes, NPO
   # Prophylaxis: Pneumoboots
   # Access: 3PIVs
   # Code: presumed full
   # Communication: Patient
   # Disposition: pending above
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-12-3**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of resident
s history and exam. Agree
   substantially with assessment and plan.  Mr. [**Known lastname 7056**] is continuing to
   bleed and hct is down to 22 despite 8 U PRBC.  He was to go for
   colonoscopy to see if a source other than hemorrhoids could be
   identified but he refused the procedure. We explained the risks,
   including death, of leaving the hospital but he elected to sign out
   against medical advice.
   Time spent 35 min
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2168-12-5**] 14:27 ------